US04725610
A mixture of 2-imino-5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl}-4-thiazolidinone (18.8 g), 2N-HCl (200 ml) and ethanol (200 ml) was heated under reflux for 12 hours. The solvent was distilled off under reduced pressure. The residue was neutralized with saturated aqueous solution of sodium hydrogen carbonate, and extracted with chloroform. The chloroform layer was washed with water and dried (MgSO4). The solvent was distilled off, whereby 5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl}-2,4-thiazolidinedione (18.0 g, 95.7%) was obtained. Recrystallization from ethanol afforded colorless needles. m.p. 113°-114° C. Elemental Analysis for C22H20N2O4S, Calcd.: C, 64.69; H, 4.93; N, 6.86. Found: C, 64.48; H, 4.91; N, 6.75.

reactant | 2-imino-5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl}-4-thiazolidinone | 18.8 g | N=C1SC(C(N1)=O)CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C22H21N3O3S
reactant | HCl | 200 ml | Cl | ClH
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl}-2,4-thiazolidinedione | 18.0 g, 95.7% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C22H20N2O4S
